US08008481B2
5-Pyridin-3-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole (Preparation #17c, 100 mg, 0.31 mmol) and ethylenediamine (133 μL, 2.00 mmol) were dissolved in 1M tetrabutylammonium fluoride in THF (4.0 mL) and the mixture was heated at reflux for about 2 hours. The reactions was cooled to ambient temperature and concentrated under reduced pressure. The residue was dissolved in EtOAc (25 mL), washed with water (2×10 mL) and concentrated under reduced pressure. The crude product was further purified by reverse phase preparative HPLC (Thermo Hypersil-Keystone 250×21.2 mm 8μ Hypersil® HS C18 column; 5% CH3CN/50 mM aqueous ammonium acetate hold for 5 min; 5-50% CH3CN/50 mM aqueous ammonium acetate over 20 min; 50-100% CH3CN/50 mM aqueous ammonium acetate over 1 min; hold at 100% CH3CN for 5 minutes, 21 mL/min) to yield 5-pyridin-3-yl-1H-indazole (61 mg, 64%) as an off-white solid. RP HPLC (Table 1, Method e) Rt=1.65, m/z: (MH)+ 196.

reactant | 5-Pyridin-3-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole | 0.31 mmol, 100 mg | N1=CC(=CC=C1)C=1C=C2C=NN(C2=CC1)COCC[Si](C)(C)C | C18H23N3OSi
reactant | ethylenediamine | 2.00 mmol, 133 μL | C(CN)N | C2H8N2
solvent | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 5-pyridin-3-yl-1H-indazole | 61 mg, 64% | N1=CC(=CC=C1)C=1C=C2C=NNC2=CC1 | C12H9N3
